US05512562
D. 7-Methoxy-3-methyl-6-nitro-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine
0.40 g (0.00134 mol) 7-methoxy-6-nitro-1 -phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in a mixture of 5 ml formic acid and 4 ml 35% aqueous formaldehyde. The mixture was heated to reflux for 2.5 hours and then evaporated in vacuo. The residue was partitioned between dichloromethane and saturated NaHCO3-solution, the organic layer was washed twice with water and once with brine, dried with NaSO4 and concentrated in vacuo, yielding the compound as a light yellow oil.

reactant | 7-methoxy-6-nitro-1 -phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.00134 mol, 0.40 g | COC1=C(C2=C(C(CNCC2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C17H18N2O3
reactant | formic acid | 5 ml | C(=O)O | CH2O2
solvent | formaldehyde | 4 ml | C=O | CH2O
product | 7-Methoxy-3-methyl-6-nitro-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=C(C2=C(C(CN(CC2)C)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C18H20N2O3
